US07687540B2
To a solution of ((R)-3-tert-butoxycarbonylamino-2-hydroxy-propyl)-cyclohexylmethyl-phosphinic acid 3-oxo-1,3-dihydro-isobenzofuran-1-yl ester (140 mg, 0.3 mmol) in 2 mL dioxane was added a 4N HCl/dioxane solution (5.0 mL, 20 mmol). After 2 h the reaction mixture was concentrated in vacuo and the resulting residue taken up in ethyl acetate and was concentrated in vacuo to yield ((R)-3-amino-2-hydroxy-propyl)-cyclohexylmethyl-phosphinic acid 3-oxo-1,3-dihydro-isobenzofuran-1-yl ester hydrochloride (120 mg, 0.3 mmol). 1H NMR (CD3OD, 300 MHz): δ 7.92 (m, 1H), 7.73 (m, 2H), 7.15 (m, 1H), 4.40 (m, 1H), 3.4-3.22 (m, 1H), 3.20-3.04 (m, 1H), 2.01-1.8 (m, 6H), 1.75-1.60 (m, 4H), 1.50-1.0 (m, 7H). 31P NMR (CD3OD, 300 MHz): δ 61.4, 60.6. LC/MS m/z: [M+H]+=368

reactant | ((R)-3-tert-butoxycarbonylamino-2-hydroxy-propyl)-cyclohexylmethyl-phosphinic acid 3-oxo-1,3-dihydro-isobenzofuran-1-yl ester | 0.3 mmol, 140 mg | O=C1OC(C2=CC=CC=C12)OP(=O)(CC1CCCCC1)C[C@@H](CNC(=O)OC(C)(C)C)O | C23H34NO7P
reactant | HCl dioxane | 20 mmol, 4N, 5.0 mL | Cl.O1CCOCC1
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | ((R)-3-amino-2-hydroxy-propyl)-cyclohexylmethyl-phosphinic acid 3-oxo-1,3-dihydro-isobenzofuran-1-yl ester hydrochloride | 0.3 mmol, 120 mg | Cl.O=C1OC(C2=CC=CC=C12)OP(=O)(CC1CCCCC1)C[C@@H](CN)O | InChI=1S/C18H26NO5P.ClH/c19-10-14(20)12-25(22,11-13-6-2-1-3-7-13)24-18-16-9-5-4-8-15(16)17(21)23-18;/h4-5,8-9,13-14,18,20H,1-3,6-7,10-12,19H2;1H/t14-,18?,25?;/m1./s1
